US04846881
6-(1-Cyclopropylethyl)-4-methylamino-3-methylthio-1,2,4-triazin-5(4H)-one
100 ml of toluene and 56.5 g (0.25 mol) of 4-amino-6-(1-cyclopropylethyl)-3-methylthio-1,2,4-triazin-5(4H)-one, and then 89.5 g (0.63 mol) of methyl iodide and 8.5 g (0.025 mol) of tetrabutylammonium bromide are added to 100 ml of 50% strength aqueous sodium hydroxide solution with vigorous stirring. The emulsion is stirred vigorously until the exothermic reaction abates (temperature rise to 50° C.). The mixture is filtered with suction through a glass frit at 20° C., the phases are separated and the organic phase is evaporated. The residue is recrystallized from methyl tert.-butyl ether. 32.9 g of the above compound of melting point 66°-68° C., identical with a product prepared according to process A (cf. Example 5), are obtained.

reactant | 4-amino-6-(1-cyclopropylethyl)-3-methylthio-1,2,4-triazin-5(4H)-one | 0.25 mol, 56.5 g | NN1C(=NN=C(C1=O)C(C)C1CC1)SC | C9H14N4OS
reactant | methyl iodide | 0.63 mol, 89.5 g | CI | CH3I
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | tetrabutylammonium bromide | 0.025 mol, 8.5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(1-Cyclopropylethyl)-4-methylamino-3-methylthio-1,2,4-triazin-5(4H)-one | C1(CC1)C(C)C=1C(N(C(=NN1)SC)NC)=O | C10H16N4OS
